US07919488B2
To a suspension of [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid (3.75 g, 12.06 mmol) in DMA (40 mL) at room temperature was added HOBt (1.79 g, 13.26 mmol), EDCI (2.54 g, 13.26 mmol), NMM (3.31 mL, 30.15 mmol) and tert-butyl methyl(piperidin-4-yl)carbamate (2.84 g, 13.26 mmol) and the mixture sonicated to a solution and stirred for 18 hours at room temperature. The volatiles were removed under high vacuum and the residue partitioned between EtOAc (300 mL) and water (100 mL). The aqueous layer was removed and the organics washed with NaHCO3 (100 mL), water (100 mL), brine (100 mL), dried over MgSO4, filtered and stripped to yield tert-butyl (1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)methylcarbamate as a white solid. This was then taken into DCM (40 mL) and TFA (40 mL) added with stirring and the resulting solution stirred at ambient temperature for 18 hours. The volatiles were removed under vacuum and the residue suspended in DCM (200 mL) and 2 M NaOH added (200 mL) with stirring. The bi phasic solution was then stirred for 15 minutes and the phases separated. The organic layer was dried over MgSO4, filtered and stripped to yield the crude product which was then purified by Biotage flash chromatography (45 M cartridge), eluting with a DCM/MeOH/NH4OH gradient to afford the title compound as a white solid, 4.6 g, 94%. 1H NMR (400 MHz, DMSO-D6) δ ppm 8.52 (d, 2 H), 7.66 (d, 2 H), 7.29 (t, 2 H), 7.15 (t, 2 H), 6.51 (s, 1 H), 5.16 (q, 2 H), 4.04 (d, 1 H), 3.95 (s, 2 H), 3.79 (d, 1 H), 3.07-3.17 (m, 1 H), 2.76-2.89 (m, 1 H), 2.27 (s, 3 H), 1.71-1.86 (m, 2 H), 1.59-1.65 (m, 1 H), 1.18-1.31 (m, 1 H), 1.03-1.14 (m, 1 H); m/z (APCI+) for C23H26N5OF 408.2 (M+H)+.

reactant | [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid | 12.06 mmol, 3.75 g | FC1=CC=C(CC2=CC(=NN2CC(=O)O)C2=CC=NC=C2)C=C1 | C17H14FN3O2
reactant | HOBt | 13.26 mmol, 1.79 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 13.26 mmol, 2.54 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 30.15 mmol, 3.31 mL | CN1CCOCC1 | C5H11NO
reactant | tert-butyl methyl(piperidin-4-yl)carbamate | 13.26 mmol, 2.84 g | CN(C(OC(C)(C)C)=O)C1CCNCC1 | C11H22N2O2
solvent | DMA | 40 mL | CC(=O)N(C)C | C4H9NO
product | tert-butyl (1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)methylcarbamate | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)CNC(OC(C)(C)C)=O)C2=CC=NC=C2)C=C1 | C28H34FN5O3
